US06740647B1
b) 4-Cyanothiophene-2-carbaldehyde oxime
11.6 g (84.6 mmol) of 4-cyanothiophene-2-carbaldehyde were dissolved in 140 ml of methanol and 12.3 g (116.1 mmol) of sodium carbonate were added. 6.5 [lacuna] (93.5 mmol) of hydroxylamine hydrochloride were subsequently added at 15° C. with cooling, a little at a time, and the mixture was stirred for 2 hours at 10° C. After 80 ml of water had been added, the reaction mixture was extracted five times using in each case 50 ml of diethyl ether, the organic phase was dried over sodium sulfate and the solvent was removed in vacuo. 12.5 g of the required product resulted as a yellow crystal powder (96% of theory).

reactant | 4-cyanothiophene-2-carbaldehyde | 84.6 mmol, 11.6 g | C(#N)C=1C=C(SC1)C=O | C6H3NOS
reactant | sodium carbonate | 116.1 mmol, 12.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 93.5 mmol | Cl.NO
reactant | water | 80 ml | O | H2O
solvent | methanol | 140 ml | CO | CH4O
product | 4-Cyanothiophene-2-carbaldehyde oxime | 12.5 g | C(#N)C=1C=C(SC1)C=NO | C6H4N2OS
